US09284312B2
To a solution of methyl 8-amino-5-bromo-1-methyl-1,2,3,4-tetrahydroquinoline-7-carboxylate (1.40 g, 4.68 mmol) in 2:1 THF/H2O (18 mL) at rt was added LiOH (224 mg, 9.36 mmol). The solution was warmed to 65° C. and stirred for 20 h. The resulting solution was cooled to rt and the THF was removed in vacuo. The aqueous residue remaining was acidified with 1 M aqueous HCl and the resulting tan solid that precipitated was collected by filtration and dried in vacuo to afford 8-amino-5-bromo-1-methyl-1,2,3,4-tetrahydroquinoline-7-carboxylic acid in pure form.

reactant | methyl 8-amino-5-bromo-1-methyl-1,2,3,4-tetrahydroquinoline-7-carboxylate | 4.68 mmol, 1.40 g | NC=1C(=CC(=C2CCCN(C12)C)Br)C(=O)OC | C12H15BrN2O2
reactant | LiOH | 9.36 mmol, 224 mg | [Li+].[OH-]
solvent | THF H2O | 18 mL | C1CCOC1.O
product | 8-amino-5-bromo-1-methyl-1,2,3,4-tetrahydroquinoline-7-carboxylic acid | NC=1C(=CC(=C2CCCN(C12)C)Br)C(=O)O | C11H13BrN2O2
